US08455499B2
Step 1: 7-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-hept-6-ynoic acid
Prepared according to the procedure described in Example 2, Step 1, using the following starting materials: [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester and 6-heptynoic acid. Mass spec. data (M+H)=481.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
reactant | 6-heptynoic acid | C(CCCCC#C)(=O)O | C7H10O2
product | 7-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-hept-6-ynoic acid | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C#CCCCCC(=O)O)C | C26H25ClN2O5
